US07074787B2
3-{4-[2-(3-Chloro-phenylamino)-pyrimidin-4-yl]-pyridin-2-yl}-oxazolidin-2-one
Phosgene in toluene (1.9 ml of a 20% commercial solution, 3.5 mmol) is added within five minutes to a solution of 2-{4-[2-(3-chloro-phenylamino)-pyrimidin-4-yl]-pyridin-2-ylamino}-ethanol (0.88 g, 2.6 mmol) and triethylamine (1.7 ml, 11.7 mmol) in absolute THF (20 ml) at 50° C. After stirring the resulting suspension for one hour at room temperature it is partitioned between ethyl acetate and water. The organic phase is separated, dried over magnesium sulfate, filtered and evaporated under reduced presssure. The residue is purified by silicagel chromatography to give the title compound, m.p. 162–163° C.

reactant | Phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 2-{4-[2-(3-chloro-phenylamino)-pyrimidin-4-yl]-pyridin-2-ylamino}-ethanol | 2.6 mmol, 0.88 g | ClC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)NCCO | C17H16ClN5O
reactant | triethylamine | 11.7 mmol, 1.7 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 3-{4-[2-(3-Chloro-phenylamino)-pyrimidin-4-yl]-pyridin-2-yl}-oxazolidin-2-one | ClC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)N1C(OCC1)=O | C18H14ClN5O2
